US08981084B2
Triethyl amine (1.52 mL, 10.4 mmol) was added dropwise to a solution of piperidine-1,3-dicarboxylic acid 1-tert-butyl ester (600 mg, 2.6 mmol) and 2-amino-1-(4-fluorophenyl)ethanone hydrochloride (500 mg, 2.6 mmol) in THF (12 mL), followed by T3P (propylphosphonic anhydride) (1.7 mL, 2.6 mmol, 50% in EtOAc) at 0° C. The reaction mixture was stirred 30 min, allowed to warm up to room temperature and stirred for an additional 8 h. The reaction mixture was then concentrated under reduced pressure and diluted with EtOAc. The organic layer was washed with aqueous 10% NaHCO3, water and brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The crude product was purified by purified by column chromatography (silica gel 60-120 mesh, eluent 20-25% EtOAc in petroleum ether) to afford tert-butyl 3-((2-(4-fluorophenyl)-2-oxoethyl)carbamoyl)piperidine-1-carboxylate (500 mg, yield 52%). 1H NMR (400 MHz, DMSO-d6) δ 8.33-8.30 (t, J=5.6 Hz, 1H), 8.08-8.04 (dd, J=8.5 Hz, 5.8 Hz, 2H), 7.39-7.35 (t, J=8.7 Hz, 2H), 4.57-4.56 (m, 2H), 3.99-3.86 (m, 2H), 2.39-2.32 (m, 1H), 1.87-1.84 (m, 1H), 1.66-1.62 (m, 1H), 1.56-1.46 (m, 2H), 1.40 (s, 9H), 1.32-1.23 (m, 2H).

reactant | Triethyl amine | 10.4 mmol, 1.52 mL | C(C)N(CC)CC | C6H15N
reactant | piperidine-1,3-dicarboxylic acid 1-tert-butyl ester | 2.6 mmol, 600 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)C(=O)O | C11H19NO4
reactant | 2-amino-1-(4-fluorophenyl)ethanone hydrochloride | 2.6 mmol, 500 mg | Cl.NCC(=O)C1=CC=C(C=C1)F
reactant | T3P | 2.6 mmol, 1.7 mL | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-((2-(4-fluorophenyl)-2-oxoethyl)carbamoyl)piperidine-1-carboxylate | 500 mg, yield 52% | FC1=CC=C(C=C1)C(CNC(=O)C1CN(CCC1)C(=O)OC(C)(C)C)=O | C19H25FN2O4
